US08252802B2
1,1′-Bis(diphenylphosphino)ferrocenedichloropalladium(II) (0.906 g, 1.25 mmol) was added to tert-butyl 4-bromo-1H-pyrrolo[2,3-c]pyridine-1-carboxylate (1.24 g, 4.17 mmol), potassium acetate (2.87 g, 29.21 mmol) and bis(pinacolato)diboron (4.73 g, 18.63 mmol) in dioxane (100 ml) under nitrogen. The resulting solution was stirred at reflux for 3 days to afford an approximate 2:1 mixture of boc to de-boc product. To this mixture was added dichlorobis(triphenylphosphine)palladium(II) (0.017 g, 0.02 mmol), (3R)-4-(2-chloro-6-(1-(S-methylsulfonimidoyl)cyclopropyl)pyrimidin-4-yl)-3-methylmorpholine (0.318 g, 0.96 mmol), 2M aqueous sodium carbonate solution (0.577 mL, 1.15 mmol) under nitrogen. The reaction mixture was stirred at 90° C. for 6 hours. The reaction mixture was concentrated, diluted with EtOAc (400 ml), and then washed sequentially with water (300 ml) and saturated brine (75 ml). The organic layer was dried over MgSO4, filtered and then evaporated directly onto silica (30 g). The resulting powder was purified by flash chromatography on silica, eluting with a gradient of 0 to 5% MeOH in DCM. Pure fractions were evaporated to dryness to afford tert-butyl 4-(4-((R)-3-methylmorpholino)-6-(1-(S-methylsulfonimidoyl)cyclopropyl)pyrimidin-2-yl)-1H-pyrrolo[2,3-c]pyridine-1-carboxylate (0.227 g, 46%); 1H NMR (400 MHz, DMSO-d6) 1.28 (3H, d), 1.40-1.61 (3H, m), 1.68 (9H, s), 1.76 (1H, dd), 3.09 (3H, d), 3.24 (1H, m), 3.52 (1H, t), 3.67 (1H, dd), 3.79 (2H, d), 4.00 (1H, dd), 4.19 (1H, s), 4.56 (1H, s), 7.00 (1H, d), 7.57 (1H, d), 8.00 (1H, d), 9.25 (1H, s), 9.37 (1H, s); m/z: (ES+) MH−, 513.19.

reactant | tert-butyl 4-bromo-1H-pyrrolo[2,3-c]pyridine-1-carboxylate | 4.17 mmol, 1.24 g | BrC1=C2C(=CN=C1)N(C=C2)C(=O)OC(C)(C)C | C12H13BrN2O2
reactant | potassium acetate | 29.21 mmol, 2.87 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 18.63 mmol, 4.73 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | (3R)-4-(2-chloro-6-(1-(S-methylsulfonimidoyl)cyclopropyl)pyrimidin-4-yl)-3-methylmorpholine | 0.96 mmol, 0.318 g | ClC1=NC(=CC(=N1)N1[C@@H](COCC1)C)C1(CC1)S(=O)(=N)C | C13H19ClN4O2S
reactant | sodium carbonate | 1.15 mmol, 2M, 0.577 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
catalyst | 1,1′-Bis(diphenylphosphino)ferrocenedichloropalladium(II) | 1.25 mmol, 0.906 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.02 mmol, 0.017 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-butyl 4-(4-((R)-3-methylmorpholino)-6-(1-(S-methylsulfonimidoyl)cyclopropyl)pyrimidin-2-yl)-1H-pyrrolo[2,3-c]pyridine-1-carboxylate | 0.227 g, 46% | C[C@@H]1COCCN1C1=NC(=NC(=C1)C1(CC1)S(=O)(=N)C)C1=C2C(=CN=C1)N(C=C2)C(=O)OC(C)(C)C | C25H32N6O4S
